US09359336B2
To the mixture of 1-(2-(2-amino-5-(2H-tetrazol-5-yl)pyridin-3-yl)benzo[b]thiophen-5-yl)-3-(4-chloro-3-(trifluoromethyl)phenyl)urea (106 mg, 0.2 mmol, 1 eq) in anhydrous dimethylformamide (2 mL) under nitrogen atmosphere was added potassium carbonate (41.4 mg, 1.5 eq) and (2-bromoethoxy)-tert-butyldimethylsilane (0.06 mL, 1.3 eq). The resulting mixture was stirred and heated at 80° C. for 2 hours. It was then diluted with ethyl acetate, washed sequentially with aqueous ammonium chloride, saturated aqueous sodium bicarbonate, and brine, and dried with anhydrous sodium sulfate. The upper clear solution was decanted and concentrated under reduced pressure with silica gel. Gradient column chromatography (EtOAc-Hex from 1:100 to 3:1) gave 1-(2-(2-amino-5-(2-(2-((tert-butyldimethylsilyl)oxy)ethyl)-2H-tetrazol-5-yl)pyridin-3-yl)benzo[b]thiophen-5-yl)-3-(4-chloro-3-(trifluoromethyl)phenyl)urea as a fluffy white solid in the amount of 77 mg.

reactant | 1-(2-(2-amino-5-(2H-tetrazol-5-yl)pyridin-3-yl)benzo[b]thiophen-5-yl)-3-(4-chloro-3-(trifluoromethyl)phenyl)urea | 0.2 mmol, 106 mg, 1 eq | NC1=NC=C(C=C1C1=CC2=C(S1)C=CC(=C2)NC(=O)NC2=CC(=C(C=C2)Cl)C(F)(F)F)C=2N=NNN2 | C22H14ClF3N8OS
reactant | potassium carbonate | 41.4 mg, 1.5 eq | C([O-])([O-])=O.[K+].[K+]
reactant | (2-bromoethoxy)-tert-butyldimethylsilane | 0.06 mL, 1.3 eq | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-(2-amino-5-(2-(2-((tert-butyldimethylsilyl)oxy)ethyl)-2H-tetrazol-5-yl)pyridin-3-yl)benzo[b]thiophen-5-yl)-3-(4-chloro-3-(trifluoromethyl)phenyl)urea | NC1=NC=C(C=C1C1=CC2=C(S1)C=CC(=C2)NC(=O)NC2=CC(=C(C=C2)Cl)C(F)(F)F)C=2N=NN(N2)CCO[Si](C)(C)C(C)(C)C | C30H32ClF3N8O2SSi
